US04622327
Preparation of 1-(benzoyloxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride
0.01 mole (1,85 g) of 1-(hydroxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride is acylated with benzoyl chloride following the conventional Schotten-Baumann acylation method.

reactant | 1-(hydroxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride | 0.01 mole, 1,85 g | Cl.OCC1CN2C1C1=CC(=C(C=C1CC2)OC)OC
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-(benzoyloxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OCC1CN2C1C1=CC(=C(C=C1CC2)OC)OC | InChI=1S/C21H23NO4.ClH/c1-24-18-10-15-8-9-22-12-16(20(22)17(15)11-19(18)25-2)13-26-21(23)14-6-4-3-5-7-14;/h3-7,10-11,16,20H,8-9,12-13H2,1-2H3;1H
